* Extracted by KLayout with SG13G2 LVS runset on : 13/01/2026 22:55

.SUBCKT nand_x3_custom A B C OUT VDD VSS
M$1 OUT A \$9 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$2 \$9 B \$8 VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.0555p PS=0.74u
+ PD=0.74u
M$3 \$8 C VSS VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
M$4 VDD A OUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p PS=1.34u
+ PD=0.74u
M$5 OUT B VDD VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.0555p PS=0.74u
+ PD=0.74u
M$6 VDD C OUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p PS=0.74u
+ PD=1.34u
.ENDS nand_x3_custom
